US08026257B2
6-Chloro-4-(1-((4-(4-fluorophenyl)-1-methylpiperidin-4-yl)methoxy)ethyl)-1,3-bis((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2(3H)-one.
tert-Butyl 4-((1-(6-chloro-1-methyl-2-oxo-3-((2-(trimethylsilyl)ethoxy)methyl)-2,3-dihydro-1H-benzo[d]imidazol-4-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate and tert-Butyl 4-((1-(6-chloro-3-methyl-2-oxo-1-((2-(trimethylsilyl)ethoxy)methyl)-2,3-dihydro-1H-benzo[d]imidazol-4-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate (2:1). To a solution of tert-Butyl 4-((1-(6-chloro-2-oxo-1-((2-(trimethylsilyl)ethoxy)methyl)-2,3-dihydro-1H-benzo[d]imidazol-4-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate and tert-Butyl 4-((1-(6-chloro-2-oxo-3-((2-(trimethylsilyl)ethoxy)methyl)-2,3-dihydro-1H-benzo[d]imidazol-4-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate (2:1) (84 mg, 0.066 mmol) in dimethylformamide (1 mL) at 0° C. was added sodium hydride (9.5 mg, 0.40 mmol). To this was quickly added iodomethane (0.033 mL, 0.53 mmol). After stirring at 0° C. for 15 min, the reaction was quenched by addition of saturated ammonium chloride. The mixture was diluted with diethyl ether and water and the layers separated. The ethereal was washed with water (2×), then brine, dried over magnesium sulfate, and concentrated. Column chromatography (25%→37% ethyl acetate/n-hexane) gave separation of the two isomers. The first to elute was tert-butyl 4-((1-(6-chloro-1-methyl-2-oxo-3-((2-(trimethylsilyl)ethoxy)methyl)-2,3-dihydro-1H-benzo[d]imidazol-4-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate (major) (53 mg, 0.082 mmol, 62%). The second to elute was tert-Butyl 4-((1-(6-chloro-3-methyl-2-oxo-1-((2-(trimethylsilyl)ethoxy)methyl)-2,3-dihydro-1H-benzo[d]imidazol-4-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate (minor) (26 mg, 0.040 mmol, 30%). tert-Butyl 4-((1-(6-chloro-1-methyl-2-oxo-3-((2-(trimethylsilyl)ethoxy)methyl)-2,3-dihydro-1H-benzo[d]imidazol-4-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate: 1H-NMR (CDCl3, 500 MHz) δ 7.21 (dd, J=8.9, 5.2 Hz, 2H), 6.97 (dd, J=8.9, 8.5 Hz, 2H), 6.81 (d, J=2.1 Hz, 1H), 6.75 (d, J=1.2 Hz, 1H), 5.36 (d, J=1 1.6 Hz, 1H), 5.04 (d, J=11.3 Hz, 1H), 4.95 (q, J=6.4 Hz, 1H), 3.68 (m, 2H), 3.51 (t, J=8.2 Hz, 2H), 3.35 (s, 2H), 3.20 (d, J=9.2 Hz, 1H), 3.18 (d, J=9.2 Hz, 1H), 3.01 (m, 2H), 2.07 (m, 2H), 1.83 (m, 2H), 1.42 (s, 9H), 1.34 (d, J=6.4 Hz, 3H), 0.72-0.92 (m, 2H), −0.05 (s, 9H); 13C NMR (126 MHz, CDCl3) δ ppm 161.4 (d, J=245 Hz), 155.0, 154.9, 138.7, 138.6, 131.7, 128.7 (d, J=7.7 Hz), 128.3, 128.0, 124.4, 119.4, 115.1 (d, J=21 Hz), 106.9, 104.2, 79.4, 76.7, 71.5, 71.4, 65.9, 41.1, 40.1, 32.2, 32.1, 28.5, 27.4, 23.2, 18.1, −1.4. tert-Butyl 4-((1-(6-chloro-3-methyl-2-oxo-1-((2-(trimethylsilyl)ethoxy)methyl)-2,3-dihydro-1H-benzo[d]imidazol-4-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate: 1H-NMR (CDCl3, 500 MHz) δ 7.24 (dd, J=8.9, 5.2 Hz, 2H), 7.01 (m, 3H), 6.76 (d, J=2.1 Hz, 1H), 5.23 (s, 2H), 4.75 (q, J=6.4 Hz, 1H), 3.72 (bs, 2H), 3.58 (t, J=8.2 Hz, 2H), 3.43 (s, 3H), 3.27 (d, J=8.9 Hz, 1H), 3.17 (d, J=9.2 Hz, 1H), 3.00 (m, 2H), 2.11 (m, 2H), 1.83 (m, 2H), 1.43 (s, 9H), 1.38 (d, J=6.4 Hz, 3H), 1.25 (m, 2H), 0.91 (m, 2H), −0.04 (s, 9H); 13C NMR (126 MHz, CDCl3) δ ppm 161.5 (d, J=246 Hz), 155.0, 154.7, 138.43, 138.41, 130.3, 128.7 (d, J=7.7 Hz), 127.4, 127.2, 125.7, 120.0, 115.2 (d, J=21 Hz), 108.4, 104.3, 79.5, 77.6, 73.1, 71.0, 66.5, 41.2, 40.1 (br), 32.3, 32.1, 30.6, 28.6, 23.8, 17.9, −1.4.

reactant | tert-Butyl 4-((1-(6-chloro-1-methyl-2-oxo-3-((2-(trimethylsilyl)ethoxy)methyl)-2,3-dihydro-1H-benzo[d]imidazol-4-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | ClC=1C=C(C2=C(N(C(N2COCC[Si](C)(C)C)=O)C)C1)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F | C33H47ClFN3O5Si
reactant | tert-Butyl 4-((1-(6-chloro-3-methyl-2-oxo-1-((2-(trimethylsilyl)ethoxy)methyl)-2,3-dihydro-1H-benzo[d]imidazol-4-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | ClC=1C=C(C2=C(N(C(N2C)=O)COCC[Si](C)(C)C)C1)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F | C33H47ClFN3O5Si
reactant | tert-Butyl 4-((1-(6-chloro-2-oxo-1-((2-(trimethylsilyl)ethoxy)methyl)-2,3-dihydro-1H-benzo[d]imidazol-4-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | ClC=1C=C(C2=C(N(C(N2)=O)COCC[Si](C)(C)C)C1)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F | C32H45ClFN3O5Si
reactant | tert-Butyl 4-((1-(6-chloro-2-oxo-3-((2-(trimethylsilyl)ethoxy)methyl)-2,3-dihydro-1H-benzo[d]imidazol-4-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | 0.066 mmol, 84 mg | ClC=1C=C(C2=C(NC(N2COCC[Si](C)(C)C)=O)C1)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F | C32H45ClFN3O5Si
reactant | sodium hydride | 0.40 mmol, 9.5 mg | [H-].[Na+]
reactant | iodomethane | 0.53 mmol, 0.033 mL | IC | CH3I
reactant | tert-butyl 4-((1-(6-chloro-1-methyl-2-oxo-3-((2-(trimethylsilyl)ethoxy)methyl)-2,3-dihydro-1H-benzo[d]imidazol-4-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | 0.082 mmol, 53 mg | ClC=1C=C(C2=C(N(C(N2COCC[Si](C)(C)C)=O)C)C1)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F | C33H47ClFN3O5Si
reactant | tert-Butyl 4-((1-(6-chloro-3-methyl-2-oxo-1-((2-(trimethylsilyl)ethoxy)methyl)-2,3-dihydro-1H-benzo[d]imidazol-4-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | 0.040 mmol, 26 mg | ClC=1C=C(C2=C(N(C(N2C)=O)COCC[Si](C)(C)C)C1)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F | C33H47ClFN3O5Si
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 6-Chloro-4-(1-((4-(4-fluorophenyl)-1-methylpiperidin-4-yl)methoxy)ethyl)-1,3-bis((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2(3H)-one | ClC=1C=C(C2=C(N(C(N2COCC[Si](C)(C)C)=O)COCC[Si](C)(C)C)C1)C(C)OCC1(CCN(CC1)C)C1=CC=C(C=C1)F | C34H53ClFN3O4Si2
